US08426358B2
Synthesis of 3-(5-(isopropylthio)-4-methyl-4H-1,2,4-triazol-3-ylthio)pyrazine-2-carbonitrile
The title compound was prepared according to Example 1 by using 5-(isopropylthio)-4-methyl-4H-1,2,4-triazole-3-thiol (379 mg, 2.00 mmol), NaH (60% dispersion in mineral oil, 88 mg, 2.20 mmol), and 3-chloropyrazine-2-carbonitrile (280 mg, 2.00 mmol) in DMF and benzene (6 ml, 1/1) by stirring at room temperature under nitrogen atmosphere for 2 hr.

reactant | 5-(isopropylthio)-4-methyl-4H-1,2,4-triazole-3-thiol | 2.00 mmol, 379 mg | C(C)(C)SC=1N(C(=NN1)S)C | C6H11N3S2
reactant | NaH | 2.20 mmol, 88 mg | [H-].[Na+]
reactant | 3-chloropyrazine-2-carbonitrile | 2.00 mmol, 280 mg | ClC=1C(=NC=CN1)C#N | C5H2ClN3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
product | 3-(5-(isopropylthio)-4-methyl-4H-1,2,4-triazol-3-ylthio)pyrazine-2-carbonitrile | C(C)(C)SC=1N(C(=NN1)SC=1C(=NC=CN1)C#N)C | C11H12N6S2
